US09055743B2
N-[3-(Ethylsulphanyl)cyclohex-2-en-1-ylidene]-4-methylaniline is prepared from 3-[(4-methyl-phenyl)amino]cyclohex-2-en-1-one by reaction with Lawesson reagent and subsequent alkylation with ethyl iodide analogously to J. Org. Chem. 1984, 49, 3314.

reactant | 3-[(4-methyl-phenyl)amino]cyclohex-2-en-1-one | CC1=CC=C(C=C1)NC1=CC(CCC1)=O | C13H15NO
reactant | Lawesson reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl iodide | C(C)I | C2H5I
product | N-[3-(Ethylsulphanyl)cyclohex-2-en-1-ylidene]-4-methylaniline | C(C)SC1=CC(CCC1)=NC1=CC=C(C=C1)C | C15H19NS
